US06410562B1
Step A: 5-Chloro-1H-indole-3-carboxylic Acid
A solution of 5.0 g (33.0 mmol) of commercially available 5-chloro-1H-indole in 50 ml dry DMF was kept at 0° C., while 7.35 g (35.0 mmol) trifluoroacetanhydride was added dropwise. After 3 h stirring at room temperature the mixture was poured into 200 ml water, and the precipitate was filtered with suction and heated with reflux overnight in 200 ml 20% NaOH. It was extracted twice with dichloromethane, and the aqueous layer was acidified with hydrochloric acid. The crystalline title compound was collected by filtration and dried in vacuo.

reactant | 5-chloro-1H-indole | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | water | 200 ml | O | H2O
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-1H-indole-3-carboxylic Acid | ClC=1C=C2C(=CNC2=CC1)C(=O)O | C9H6ClNO2
